datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1ccc(N=C2C=CC(=[NH+:21][H:20])C=C2)c(N)c1.Nc1ccc(-c2ccc(/N=C/c3ccc([O-:10])cc3)cc2)cc1>>Cc1ccc(N=C2C=CC(=[NH:21])C=C2)c(N)c1.Nc1ccc(-c2ccc(/N=C/c3ccc([O:10][H:20])cc3)cc2)cc1 10=20;20,21=21",
"N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20].O=C([O-])C1CCC[NH:10]1>>N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1.O=C([O-])C1CCC[NH+:10]1[H:20] 10=20;20,21=21",
"CCOC(=O)c1ccccc1-n1nc([O-:10])cc1C.COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H](C2)[N+:21](C)([H:20])CC[C@]314>>CCOC(=O)c1ccccc1-n1nc([O:10][H:20])cc1C.COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H](C2)[N:21](C)CC[C@]314 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[NH2+:10][H:20] 10=20;20,21=21",
"Brc1ccc([NH+:21](c2ccccc2)[H:20])cc1.O=C(O)C[NH+](CCNS(=O)(=O)c1ccccc1)CC(=O)[O-:10]>>Brc1ccc([NH:21]c2ccccc2)cc1.O=C(O)C[NH+](CCNS(=O)(=O)c1ccccc1)CC(=O)[O:10][H:20] 10=20;20,21=21",
"CCC(CO)[NH+:21](Cl)[H:20].CC[N:10](CC)CCNc1cc(Nc2ccc(Cl)cc2)nc(C)n1>>CCC(CO)[NH:21]Cl.CC[N+:10](CC)(CCNc1cc(Nc2ccc(Cl)cc2)nc(C)n1)[H:20] 10=20;20,21=21",
"CC(=O)N1C[C@@]2(C(C)C)OC(=O)C[C@H]2[C@@H]1C(=O)[O:21][H:20].CC(C)(C(C(=O)[O-])n1ccnc1Cc1ccccc1)[S-:10]>>CC(=O)N1C[C@@]2(C(C)C)OC(=O)C[C@H]2[C@@H]1C(=O)[O-:21].CC(C)(C(C(=O)[O-])n1ccnc1Cc1ccccc1)[S:10][H:20] 10=20;20,21=21",
"CCC1(C2=CCCCC2)C(=O)[N-]C(=S)[N:21]([H:20])C1=O.CCCC1(Br)C(=O)NC(=O)[N-:10]C1=O>>CCC1(C2=CCCCC2)C(=O)[N-]C(=S)[N-:21]C1=O.CCCC1(Br)C(=O)NC(=O)[N:10]([H:20])C1=O 10=20;20,21=21",
"Cc1cc(CN)c(O)c(C[NH2:10])c1.c1cc(C(c2ccncc2)(c2ccncc2)[O:21][H:20])ccn1>>Cc1cc(CN)c(O)c(C[NH2+:10][H:20])c1.c1cc(C(c2ccncc2)(c2ccncc2)[O-:21])ccn1 10=20;20,21=21",
"CC(=O)n1ccnc1Cc1[nH]cc[n:10]1.CCCCNc1nc[n+:21]([H:20])c2c1cnn2C>>CC(=O)n1ccnc1Cc1[nH]cc[n+:10]1[H:20].CCCCNc1nc[n:21]c2c1cnn2C 10=20;20,21=21",
"CC1CCCC/C1=[N:10]/CC(=O)[O-].O=C(C1=C(CO)CC1)[O:21][H:20]>>CC1CCCC/C1=[N+:10](/CC(=O)[O-])[H:20].O=C(C1=C(CO)CC1)[O-:21] 10=20;20,21=21",
"C/C(=N/[O-:10])c1ccc([O-])cc1O.COP(=O)(NS(=O)(=O)c1ccccc1)[O:21][H:20]>>C/C(=N/[O:10][H:20])c1ccc([O-])cc1O.COP(=O)(NS(=O)(=O)c1ccccc1)[O-:21] 10=20;20,21=21",
"CCN(CC)[N:10](CC)CC.c1nnc([S:21][H:20])o1>>CCN(CC)[N+:10](CC)(CC)[H:20].c1nnc([S-:21])o1 10=20;20,21=21",
"CC(C)n1nn[n+:21]([H:20])c1N.Nc1ccc2cc3ccccc3[n:10]c2c1>>CC(C)n1nn[n:21]c1N.Nc1ccc2cc3ccccc3[n+:10]([H:20])c2c1 10=20;20,21=21",
"CCCC[O-:10].Nc1n[n:21]([H:20])cc1[N+](=O)[O-]>>CCCC[O:10][H:20].Nc1n[n-:21]cc1[N+](=O)[O-] 10=20;20,21=21",
"O=C(CCC1CCCCC1)[O:21][H:20].OC(c1ccncc1)[O-:10]>>O=C(CCC1CCCCC1)[O-:21].OC(c1ccncc1)[O:10][H:20] 10=20;20,21=21",
"C=CCC(=O)[O:21][H:20].FC(F)(F)c1nc([O-:10])c2[nH]c[nH+]c2n1>>C=CCC(=O)[O-:21].FC(F)(F)c1nc([O:10][H:20])c2[nH]c[nH+]c2n1 10=20;20,21=21",
"Cc1cc(O)n(-c2nc([O-])c(C)c(C)[n+:21]2[H:20])n1.Oc1cccc2c1-c1ccc([NH2:10])cc1C2>>Cc1cc(O)n(-c2nc([O-])c(C)c(C)[n:21]2)n1.Oc1cccc2c1-c1ccc([NH2+:10][H:20])cc1C2 10=20;20,21=21",
"CC(C)(Cl)C(=O)[O:21][H:20].COc1ccc(-c2c[n:10]c(-c3ccccc3)o2)cc1>>CC(C)(Cl)C(=O)[O-:21].COc1ccc(-c2c[n+:10]([H:20])c(-c3ccccc3)o2)cc1 10=20;20,21=21",
"CCCCOC(=O)c1ccc([NH2:10])cc1.CSC(C)C(=O)[O:21][H:20]>>CCCCOC(=O)c1ccc([NH2+:10][H:20])cc1.CSC(C)C(=O)[O-:21] 10=20;20,21=21",
"CC(=O)c1ccc([O-:10])c([N+](=O)[O-])c1.c1n[nH]c[n+:21]1[H:20]>>CC(=O)c1ccc([O:10][H:20])c([N+](=O)[O-])c1.c1n[nH]c[n:21]1 10=20;20,21=21",
"N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.c1ccc(CC2CCC[NH:10]2)cc1>>N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.c1ccc(CC2CCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"CCS(=O)(=O)c1cc(OC)c(OC)c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:21]3(Cc2ccccc2)[H:20])c1.OCCCCCc1cccc[n:10]1>>CCS(=O)(=O)c1cc(OC)c(OC)c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:21]3Cc2ccccc2)c1.OCCCCCc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"C=C(C)C1=C([O:21][H:20])CC(C)CC1.c1c[n-:10]cn1>>C=C(C)C1=C([O-:21])CC(C)CC1.c1c[n:10]([H:20])cn1 10=20;20,21=21",
"CC[NH+]1CCCC1CNC(=O)c1c(OC)cccc1[O:21][H:20].c1ccc(C(c2ccncc2)(c2ccccn2)[O-:10])nc1>>CC[NH+]1CCCC1CNC(=O)c1c(OC)cccc1[O-:21].c1ccc(C(c2ccncc2)(c2ccccn2)[O:10][H:20])nc1 10=20;20,21=21",
"C1CCC[NH:10]CCCCCCNCC1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C1CCC[NH+:10]([H:20])CCCCCCNCC1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC[NH+](CC)Cc1cc(Br)ccc1[O:21][H:20].c1ncc(CC[NH2:10])[nH]1>>CC[NH+](CC)Cc1cc(Br)ccc1[O-:21].c1ncc(CC[NH2+:10][H:20])[nH]1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cc([O-:10])c2cnccc2c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cc([O:10][H:20])c2cnccc2c1 10=20;20,21=21",
"CC[NH:10]CCCC(=O)[O-].C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC[NH+:10](CCCC(=O)[O-])[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[NH+](C)CCc1nnn[n-:10]1.c1ccc(-c2ccc[n+:21]([H:20])c2)nc1>>C[NH+](C)CCc1nnn[n:10]1[H:20].c1ccc(-c2ccc[n:21]c2)nc1 10=20;20,21=21",
"CCOc1nccc([O-])[n+:21]1[H:20].Nc1nc2nc[n-:10]c2c(N)[n+]1[O-]>>CCOc1nccc([O-])[n:21]1.Nc1nc2nc[n:10]([H:20])c2c(N)[n+]1[O-] 10=20;20,21=21",
